US08053440B2
A mixture of 2-amino-4,6-dimethyl benzamide (0.2 g, 1.22 mmol), 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3,5-dimethyl-benzaldehyde (0.376 g, 1.22 mmol), sodium hydrogensulfite (0.22 g, 1.22 mmol) and prtoluenesulfonic acid (0.116 g, 0.61 mmol) in N,N-dimethyl acetamide (10 mL) was stirred at 155° C. for 14 h. The reaction mixture was cooled to room temperature and diluted with water (50 mL). The solid crashed out and was collected by filtration to afford impure product. The solid was re-dissolved in THF (30 mL) and mixed with TBAF in THF (5 mL, 5 mmol). The reaction mixture was stirred at room temperature for 14 h and concentrated using a rotary evaporator to afford an oily residue. Further purification by column (SiO2, EtOAc/DCM/MeOH=12:4:1) yielded an off-white solid. This solid was diluted with MeOH (10 mL) to make a slurry. The solid was collected by filtration and washed with MeOH to afford 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethylquinazolin-4(3H)-one (98 mg, 24%) as a white solid. Selected data: MS (ES) m/z: 339.10; MP 259.6-261.2° C.

reactant | 2-amino-4,6-dimethyl benzamide | 1.22 mmol, 0.2 g | NC1=C(C(=O)N)C(=CC(=C1)C)C | C9H12N2O
reactant | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3,5-dimethyl-benzaldehyde | 1.22 mmol, 0.376 g | C(C)(C)(C)[Si](OCCOC1=C(C=C(C=O)C=C1C)C)(C)C | C17H28O3Si
reactant | sodium hydrogensulfite | 1.22 mmol, 0.22 g | S(=O)(O)[O-].[Na+]
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 50 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 5 mmol, 5 mL | C1CCOC1 | C4H8O
product | 2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-5,7-dimethylquinazolin-4(3H)-one | 98 mg, 24% | OCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)C)C)C | C20H22N2O3
